US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(2-amino-6-chloro-pyrimidin-4-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 424, starting from 2-[(S)-1-Phenylethylamino]-4-[5-trimethylstannylbenzimidazol-1-yl]pyrimidine and 2-amino4,6-dichloropyrimidine. Mass spectrum (ESI) 443.4 (M+).

reactant | 2-[(S)-1-Phenylethylamino]-4-[5-trimethylstannylbenzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)[Sn](C)(C)C
reactant | 2-amino4,6-dichloropyrimidine | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
product | 2-[(S)-1-Phenylethylamino]-4-[5-(2-amino-6-chloro-pyrimidin-4-yl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=NC(=NC(=C2)Cl)N | C23H19ClN8
